US04499089
4-(4-Dimethylaminophenyl)-1-(3-dimethylaminopropyl)-2-methylthio-5-oxo-4-(3-pyridyl)-2-pyrroline-3-carbonitrile (21)
A suspension of 3.5 g 4-(4-dimethylaminophenyl)-2-methylthio-5-oxo-4-(3-pyridyl)-2-pyrroline-3-carbonitrile and 0.3 g sodium hydride (80% in white oil) is refluxed for one hour. One then adds dropwise thereto, within ten minutes, a solution of 1.3 g 3-dimethylaminopropyl chloride in 25 ml abs. dioxan and further boils for six hours. After cooling, the reaction mixture is filtered, the solvent is removed on a Rotavapor and the residue is chromatographed on silica gel with chloroform+methanol 10+1 as elution agent. After crystallization of the main fraction from isopropanol, one obtains 1.8 g of colorless crystals of mp 90°-91° C.

reactant | 4-(4-dimethylaminophenyl)-2-methylthio-5-oxo-4-(3-pyridyl)-2-pyrroline-3-carbonitrile | 3.5 g | CN(C1=CC=C(C=C1)C1(C(=C(NC1=O)SC)C#N)C=1C=NC=CC1)C | C19H18N4OS
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 1.3 g | CN(CCCCl)C | C5H12ClN
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 4-(4-Dimethylaminophenyl)-1-(3-dimethylaminopropyl)-2-methylthio-5-oxo-4-(3-pyridyl)-2-pyrroline-3-carbonitrile | 1.8 g | CN(C1=CC=C(C=C1)C1(C(=C(N(C1=O)CCCN(C)C)SC)C#N)C=1C=NC=CC1)C | C24H29N5OS
